US03957825
The first step in the sequence in the pyrolysis of 3-hydroxy-1,5-hexadiene to prepare 5-hexenal which is reacted with malonic acid to form 2,7-octadienoic acid. The foregoing acid is esterified by treatment with diazomethane and the resulting methyl ester is reacted with the sodium salt of ethyl acetoacetate under the influence of sodium methoxide in a methanol menstruum to yield the sodium salt of methyl 6-(4pentenyl)-β-dihydroresorcylate. The dihydroresorcylate sodium salt is then brominated at low temperature to form methyl 3 -bromo-6-(4 -pentenyl)-β-dihydroresorcylate which is de-hydrobrominated by treatment with sodium ethoxide in an anhydrous ethanol menstruum to prepare ethyl 6-(4-pentenyl)-β-resorcylate. The foregoing resorcylate is reacted with benzyl chloride to yield ethyl 6-(4-pentenyl)-β-resorcylate dibenzyl ether which is treated with the sodium alcoholate of 4-penten-2 -ol to produce 4 -penten-2-yl 6-(4-pentenyl)-β -resorcylate dibenzyl ether. The foregoing compound is treated successively with 2,3-dimethyl-2-butylborane, carbon monoxide, sodium acetate solution, and hydrogen peroxide to form zearalanone dibenzyl ether. On Hydrogenation zearalanone dibenzyl ether is converted to (R,S)-zearalanone.

reactant | sodium | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl 6-(4-pentenyl)-β-resorcylate | C(CCC=C)C=1C=C(C=C(C1C(=O)OCC)O)O | C14H18O4
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | C(C)O | C2H6O
product | ethyl 6-(4-pentenyl)-β-resorcylate dibenzyl ether | C(C1=CC=CC=C1)OC=1C(C(=O)OCC)=C(C=C(C1)OCC1=CC=CC=C1)CCCC=C | C28H30O4
